US08012976B2
Ethyl 2-(4-fluorophenyl)-3-methyl-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A solution of ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (100 mg, 0.25 mmol) and potassium carbonate (70 mg, 0.51 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 1 hr. Then the solution was cooled to 0° C. and a solution of iodomethane (0.1 mL) in N,N-dimethylformamide (1 mL) was added dropwise at 0° C. over 1 hr, stirred at room temperature overnight. The mixture was quenched with water (30 mL), extracted with ethyl acetate, washed with brine, and then the extraction was evaporated to get the crude product, which was used in next step without further purification (80 mg, yield 77%). LC-MS (ESI) m/z: 409 (M+1)+.

reactant | ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.25 mmol, 100 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC | C21H19FN4O3
reactant | potassium carbonate | 0.51 mmol, 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.1 mL | IC | CH3I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(4-fluorophenyl)-3-methyl-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | yield 77% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1(C1=NC=NN1C)C)=O)C(=O)OCC | C22H21FN4O3
